US20010036944A1
2. Preparation of (4-Methoxy-1,3-benzodioxol-6-yl boronic acid)
To tetrahydrofuran (40 mL) was added magnesium turnings (2.33 g, 95.8 mmol), 1 bromo-3,4-methylenedioxy-5-methoxybenzene (21.7 g, 93.9 mmol) and a catalytic amount of iodine. Following vigorous reaction, the metal was consumed, and the solution was added to a solution of trimethylborate (38 mL, 334 mmol) in tetrahydrofuran (100 mL) at 78° C. over 45 minutes. The mixture was stirred at 78° C. for an additional 2 hours, then at 25° C. overnight. To the mixture was added 1N HCl (200 mL) followed by stirring at 25° C. for 3 days. 5 The solvent was removed in vacuo, and the suspension was extracted with ethyl ether. The ether phase was washed with brine, and the product was extracted into 0.5N NaOH. The NaOH solution was washed with ethyl ether and acidified to pH 1 with 2N HCl. The acidified aqueous phase was extracted with ethyl ether, washed with brine, dried over anhydrous magnesium sulfate, filtered, and evaporated to a brown solid, 7.43 g, 40% yield. The material was of sufficient purity to be used in subsequent preparations.

reactant | magnesium | 95.8 mmol, 2.33 g | [Mg] | Mg
reactant | bromo-3,4-methylenedioxy-5-methoxybenzene | 93.9 mmol, 21.7 g | BrC1=CC2=C(C(=C1)OC)OCO2 | C8H7BrO3
reactant | iodine | II | I2
reactant | trimethylborate | 334 mmol, 38 mL | COB(OC)OC | C3H9BO3
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-Methoxy-1,3-benzodioxol-6-yl boronic acid | 40% yield | COC1=CC(=CC=2OCOC21)B(O)O | C8H9BO5
